US06864265B2
4-Trifluoromethyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole
Reaction of 4-trifluoromethyl-1H-imidazole (301 mg, 2.21 mmol), 95% NaH (61 mg, 2.4 mmol), and SEMCl (406 mg, 2.44 mmol) gave the title compound as a brown oil that was used without further purification. 1H NMR (CDCl3) □0.00 (s, 9H), 0.93 (m, 2H), 3.51 (m, 2H), 5.30 (s, 2H), 7.39 (s, 1H), 7.64 (s, 1H).

reactant | 4-trifluoromethyl-1H-imidazole | 2.21 mmol, 301 mg | FC(C=1N=CNC1)(F)F | C4H3F3N2
reactant | NaH | 2.4 mmol, 61 mg | [H-].[Na+]
reactant | SEMCl | 2.44 mmol, 406 mg | C[Si](C)(C)CCOCCl | C6H15ClOSi
product | 4-Trifluoromethyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole | FC(C=1N=CN(C1)COCC[Si](C)(C)C)(F)F | C10H17F3N2OSi
